US06548495B2
2-[3-(3-Methyl-isoxazol-5-yl)-phenyl]-8-morpholin-4-yl-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepine-7-carbonitrile
The title compound was prepared from (4-cyano-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester (Example M42) (0.39 g, 0.71 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (215 mg, 70%).

reactant | (4-cyano-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-5-morpholin-4-yl-phenyl)-carbamic acid tert-butyl ester | 0.71 mmol, 0.39 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N1CCOCC1)C#N)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C29H31N5O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[3-(3-Methyl-isoxazol-5-yl)-phenyl]-8-morpholin-4-yl-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepine-7-carbonitrile | CC1=NOC(=C1)C=1C=C(C=CC1)C=1CC(NC2=C(N1)C=C(C(=C2)C#N)N2CCOCC2)=O | C24H21N5O3
